US08426447B2
A 500 ml RB flask was charged with 2-bromo-7-iodo-9H-xanthen-9-one (16.030 g, 40.0 mmol) and THF (150 mL). The mixture was stirred for 10 min at RT and the resulting suspension was placed in water-ice bath for another 10 min. Methylmagnesium bromide, 3.0 M in Et2O (20.0 ml, 60.0 mmol) was added dropwise. After 1 hr, the mixture was carefully quenched with sat NH4Cl (150 mL) at 0° C. and diluted with EtOAc. The organic layer was washed with brine, dried with sodium sulfate, and concentrated in vacuo. The material was dissolved in 100 mL of methylene chloride, treated with PPTS (0.201 g, 0.800 mmol), and heated to reflux for 2 hr. The mixture was cooled to RT, diluted with DCM, and washed with saturated sodium bicarbonate and brine. The organic fraction was dried over sodium sulfate and concentrated in vacuo to afford crude 2-bromo-7-iodo-9-methylene-9H-xanthene as a light orange solid that was advanced without further purification. MS: MH+=399.0/401.0.

reactant | 2-bromo-7-iodo-9H-xanthen-9-one | 40.0 mmol, 16.030 g | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)I)=O | C13H6BrIO2
reactant | Methylmagnesium bromide | C[Mg]Br
reactant | Et2O | 60.0 mmol, 20.0 ml | CCOCC | C4H10O
reactant | PPTS | 0.800 mmol, 0.201 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-bromo-7-iodo-9-methylene-9H-xanthene | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)I)=C | C14H8BrIO
